US04675337
1-Methyl-2-ethylthio-4-nitroimidazole
Ethyl mercaptan (5.14 g, 0.083 mole) was added to dimethylformamide (140 ml) containing potassium hydroxide (4.6 g, 0.08 mole). This was stirred for 90 minutes until all the potassium hydroxide had dissolved. To this solution was added 1-methyl-2-methylsulfonyl-4-nitroimidazole (8.5 g, 0.04 mole) and the reaction stirred for 2 hours at room temperature. The reaction mixture was then added to water (500 ml) and stirred in an ice bath for an additional hour. The crystalline product was filtered off and dried to give 5.6 g of crude product. This was recrystallized from ethanol/water to give 4.3 g of product.

reactant | Ethyl mercaptan | 0.083 mole, 5.14 g | C(C)S | C2H6S
reactant | dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
reactant | potassium hydroxide | 0.08 mole, 4.6 g | [OH-].[K+]
reactant | 1-methyl-2-methylsulfonyl-4-nitroimidazole | 0.04 mole, 8.5 g | CN1C(=NC(=C1)[N+](=O)[O-])S(=O)(=O)C | C5H7N3O4S
solvent | water | 500 ml | O | H2O
product | 1-Methyl-2-ethylthio-4-nitroimidazole | 4.3 g | CN1C(=NC(=C1)[N+](=O)[O-])SCC | C6H9N3O2S
